US08420655B2
5-{1-tert-Butyl-2-[2-(3-methyl-1,2,4-triazol-1-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a solution of 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (50 mg, 0.19 mmol) in DMF (5 mL) is added 2-(3-methyl-1,2,4-triazol-1-yl)-benzaldehyde (44 mg, 0.23 mmol) at room temperature. Oxone (119 mg, 0.19 mmol) in H2O (1 mL) is added and the solution stirred for 1 hour. Saturated sodium thiosulfate solution (5 mL) is added and the mixture is extracted with EtOAc (3×10 mL) and H2O (10 mL). The combined organic layer is dried with (MgSO4), filtered and concentrated. The residue is purified by silica gel flash column chromatography eluting with 10% MeOH in CH2Cl2 to afford the title compound (25 mg, 30%) as a white solid. LCMS (ESMS): m/z 425.20 (M++1)

reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.19 mmol, 50 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 2-(3-methyl-1,2,4-triazol-1-yl)-benzaldehyde | 0.23 mmol, 44 mg | CC1=NN(C=N1)C1=C(C=O)C=CC=C1 | C10H9N3O
reactant | Oxone | 0.19 mmol, 119 mg | OOS(=O)[O-].[K+]
reactant | sodium thiosulfate | 5 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 mL | O | H2O
product | 5-{1-tert-Butyl-2-[2-(3-methyl-1,2,4-triazol-1-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 25 mg, 30% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC=C2)N2N=C(N=C2)C | C24H24N8
